US06617339B1
5-Amino-2-(4-methyl-imidazol-1-yl)fluorobenzene
3-Fluoro4-(4-methyl-imidazol-1-yl)nitrobenzene (64.7 g, 0.293 M) was dissolved in a mixture of MeOH (200 ml) and tetrahydrofuran (800 ml), cooled to 0° under nitrogen, and treated with ammonium formate (99.3 g, 1.46 M) followed by palladium on charcoal (10%. 2.5 g). The mixture was stirred at ambient temperature for 48 hours, filtered through celite, celite washed with MeOH (200 ml), and filtrate evaporated to dryness. The residue was partitioned between EtOAc (800 ml) and 10% aqueous sodium bicarbonate (250 ml). The organic layer was separated, washed with brine (250 ml), dried (magnesium sulfate) and evaporated to give title compound (50.6 g).

reactant | 3-Fluoro4-(4-methyl-imidazol-1-yl)nitrobenzene | 0.293 M, 64.7 g | FC=1C=C(C=CC1N1C=NC(=C1)C)[N+](=O)[O-] | C10H8FN3O2
reactant | ammonium formate | 1.46 M, 99.3 g | C(=O)[O-].[NH4+]
solvent | MeOH | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 2.5 g | [Pd] | Pd
product | 5-Amino-2-(4-methyl-imidazol-1-yl)fluorobenzene | 50.6 g | NC=1C=CC(=C(C1)F)N1C=NC(=C1)C | C10H10FN3
